US07700594B2
To a stirred solution of 2-(trifluoromethyl)benzenethiol (5.000 g, 0.028 mol) in acetone (50 mL) was added 2-bromo-1,1-diethoxyethane (6.08 g, 0.030 mol) and potassium carbonate (7.757 g, 0.056 mol). The resulting mixture was then stirred at 45° C. for 2 hours prior to removal of the solvent in vacuo and suspension of the residue in EtOAC. The inorganic salts were filtered off and the organic phase was concentrated to give crude product, which was used in next step without further purification. This residue was dissolved in toluene (50 mL), and to this solution was added PPA (10 g) and the resulting mixture stirred at 95-100° C. for 2 hours. The mixture was allowed to cool to rt, was poured into ice-water, then extracted with EtOAc (3×50 mL). The combined extracts were washed with aqueous sodium bicarbonate followed by brine, then dried over anhydrous sodium sulfate and evaporated under reduced pressure to yield an oil. This was purified by column chromatography over silica gel eluting with hexane to give 7-trifluoromethyl-benzo[b]thiophene. 1H NMR (400 MHz, MeOD) δ ppm 7.49-7.57 (m, 2H), 7.70 (d, J=7.33 Hz, 1H), 7.74 (d, J=5.56 Hz, 1H) and 8.10 (d, J=8.08 Hz, 1H).

reactant | 2-(trifluoromethyl)benzenethiol | 0.028 mol, 5.000 g | FC(C1=C(C=CC=C1)S)(F)F | C7H5F3S
reactant | 2-bromo-1,1-diethoxyethane | 0.030 mol, 6.08 g | BrCC(OCC)OCC | C6H13BrO2
reactant | potassium carbonate | 0.056 mol, 7.757 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 7-trifluoromethyl-benzo[b]thiophene | FC(C1=CC=CC2=C1SC=C2)(F)F | C9H5F3S
